US05143643
17 g of 4-pentyloxypentanol was dissolved in 60 ml of pyridine, and under stirring, 22.4 g of tosyl chloride was added at below 10° C. in 40 min. The mixture was raised to 25° C. and stirred for 3 hours. After the reaction, cold water was added, and the product was extracted with ether, followed by successive washing with 5% hydrochloric acid and water and drying with anhydrous MgSO4. The solvent was distilled off to obtain 31.9 g of 4-pentyloxypentyl p-toluenesulfonate.

reactant | 4-pentyloxypentanol | 17 g | C(CCCC)OC(CCCO)C | C10H22O2
reactant | tosyl chloride | 22.4 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | water | O | H2O
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 4-pentyloxypentyl p-toluenesulfonate | 31.9 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCC(C)OCCCCC)C | C17H28O4S
